* 5E5-A (Tweed Pro-style) — DC operating-point netlist
* Circuit Codex — CC-BY-SA 4.0. Independently drawn from the published 5E5-A
* (J-EE) drawing's legible component values (see meta.yaml); no drawing
* reproduced.
*
* DC conventions: BP1 driven at the printed +390 V (power-tube plate node,
* before the choke); downstream nodes DERIVED. Choke DCR estimated at 110 R
* (the drawing's own +390 -> +385 V drop implies ~110 R at the combined
* output-stage screen+plate current below). OT primary DCR omitted. Bias
* supply replaced by an ideal -32 V source (its selenium/RC network is
* AC/ripple filtering only). DC-open caps (coupling / cathode-bypass) are
* modelled where both leads land on a named DC node; caps into the abstracted
* James tone network (Bass/Treble/Presence, all passive) stay omitted — its
* own DC path to ground is folded into a single representative 1M leak at the
* driver's grid (RG4 below), the same treatment this corpus gives other
* abstracted tone/control networks (5f4, 5f6a).
*
* Two 12AY7s: V1 is the shared two-channel front end (mic + instrument, one
* triode each, shared 820R cathode) — the schematic's two input jacks per
* channel collapse to one representative grid path each, as 5e3's netlist
* already does for the same real chassis detail. V2 is the single shared
* second stage the two channels mix into through their own 1M volume pots and
* 270k mixing resistors; its second triode is not used in the signal path and
* carries no netlist element. V3 (12AX7) is a driver stage feeding a
* split-load (cathodyne) phase inverter — the driver+cathodyne shape this
* corpus already documents on the 5F4 Super, not a long-tailed pair.
*
* Values not confidently legible in this copy of the drawing (the two rail
* droppers RD1/RD2, and V2's own plate/cathode resistors) are carried at this
* corpus's standard values for the identical role on 5e3/5f4 rather than
* guessed digit-by-digit; flagged in notes.md for a maintainer to confirm
* against a sharper scan.
.include models/12ay7.inc
.include models/12ax7.inc
.include models/5881.inc

VBP1 BP1 0 DC 390
VBIAS NBIAS 0 DC -32

* rail: choke (DCR estimate) -> screens, then two droppers toward the front
RCHOKE BP1 BP2 110
RD1 BP2 BP3 16k
RD2 BP3 BP4 22k

* V1 12AY7 — mic + instrument channels, shared 820R cathode (dual 25+25 uF
* bypass can omitted for DC; open at DC, it moves no operating point)
RL1 BP4 PAY1 100k
XV1A PAY1 GAY1 KAY 12AY7
RG1 GAY1 0 1meg
RL2 BP4 PAY2 100k
XV1B PAY2 GAY2 KAY 12AY7
RG2 GAY2 0 1meg
RK1 KAY 0 820

* V2 12AY7 (second, single triode) — the shared stage both channels' 1M
* volume pots and 270k mixing resistors reach through at DC as one 1M leak.
* Two more resistors are visible on the 2026-08-08 sharper-scan re-read
* between V2's plate/grid and the driver's grid (bom.yaml RFB1, RBLEED) —
* NOT included here. Modelled as plain DC resistors they collapse this
* stage's operating point (P2 driven to ~8 V against a chart of 130 V), which
* contradicts the chart's own printed, self-consistent class-A reading; at
* least one of the two almost certainly sits behind a coupling cap this scan
* doesn't resolve. Carried as an annotation-layer finding (bom.yaml) rather
* than guessed into the DC model — see notes.md.
RL3 BP4 P2 100k
XV2 P2 G2 K2 12AY7
RG3 G2 0 1meg
RK2 K2 0 1.5k

* V3A 12AX7 driver — the James tone network sits between V2's plate and this
* grid; abstracted to the single 1M leak below (its own DC path to ground
* through the Bass pot), per meta.yaml topology.tone_stack: james
RL4 BP3 P3A 100k
XV3A P3A G3A K3A 12AX7
RG4 G3A 0 1meg
RK3 K3A 0 1.5k

* V3B split-load cathodyne, driven from V3A's plate
C1 P3A GPI 0.02u
RL5 BP3 PPI 56k
XV3B PPI GPI KPI 12AX7
RKA KPI JPI 1.5k
RKB JPI 0 56k
RGPI GPI JPI 1meg

* 6L6GB pair — fixed-biased via 220k leaks from the -32 V supply; screens
* tied straight to BP2 (no screen resistor legible on the drawing)
RGL1 NBIAS G61 220k
XV4 BP1 BP2 G61 0 5881
RGL2 NBIAS G62 220k
XV5 BP1 BP2 G62 0 5881
* cathodyne -> output-grid drive: 0.1u couplers (DC-open) + 1.5k stoppers,
* one from the PLATE, one from the CATHODE — the split-load pair of outputs
C2 PPI NG61 0.1u
R5s NG61 G61 1.5k
C3 KPI NG62 0.1u
R6s NG62 G62 1.5k

* DC-open caps (both leads on a named DC node — placement not layout-checked,
* no layout.yaml is authored in this delivery)
C4 KAY 0 25u
